US04225725
Preparation of 2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl 3-Acetamido-2,4,6-triiodo-N-methylisophthalamate
Sodium iothalamate (41.3 g., 0.065 mole) was dissolved in 400 ml. of dimethylformamide. Tetraacetylglucosyl bromide (26.7 g., 0.067 mole) was added in one portion. There was no temperature rise. The course of the reaction was followed by thin-layer chromatography (system-benzenemethyl ethyl ketone-acetic acid 60:25:10). Aliquots were taken from the dimethylformamide reaction mixture, diluted with tetrahydrofuran and spotted versus a zero time sample of sodium iothalamate. After one hour stirring at room temperature, a single large spot with an Rf greater than Na iothalamate appeared (TLC system, 60 parts benzene--25 parts methyl ethyl ketone--10 parts acetic acid). The thin-layer chromatogram did not change after stirring overnight at room temperature or 11/2 hours at 80° C. The dimethylformamide was evaporated (vacuum pump) leaving a glassy, foam-like residue. The residue was dissolved in 150 ml. of dimethylformamide and 375 ml. of chloroform and extracted with 360 ml. of 5% aqueous bicarbonate. The organic layer was separated immediately, dried with sodium sulfate overnight, and concentrated under reduced pressure leaving a residue of 48.8 g. Thin-layer chromatography of this showed only a trace of iothalamic acid left (TLC system, benzene-methyl ethyl ketone-acetic acid, 60:25:10). The residue was crystallized from 100 ml. of chloroform and 300 ml. of carbon tetrachloride to yield a 1st crop of 20.5 g. and 2nd crop of 12.2 g. (TLC using the same system as above was identical with the 1st crop). Both crops were combined (30.6 g.) and recrystallized from 100 ml. of THF and 250 ml. of ether, yield 17.4 g., m.p. 171°-178° C. (dec). The ir and nmr were in accord with the proposed structure.

reactant | Sodium iothalamate | 0.065 mole, 41.3 g | CC(=O)NC1=C(C(=C(C(=C1I)C(=O)[O-])I)C(=O)NC)I.[Na+]
reactant | Tetraacetylglucosyl bromide | 0.067 mole, 26.7 g | C(C)(=O)[C@@]1([C@@]([C@](C(O[C@@H]1CO)(C(C)=O)Br)(O)C(C)=O)(O)C(C)=O)O | C14H19BrO9
reactant | iothalamic acid | CC(=O)NC1=C(C(=C(C(=C1I)C(=O)O)I)C(=O)NC)I | C11H9I3N2O4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | benzene methyl ethyl ketone acetic acid | C1=CC=CC=C1.C(C)C(=O)C.C(C)(=O)O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ethyl ketone acetic acid | C(C)C(=O)CC.C(C)(=O)O
product | 2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl 3-Acetamido-2,4,6-triiodo-N-methylisophthalamate | C(C)(=O)NC1(C(C(C(=O)O[C@@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)=C(C=C1I)I)I)C(=O)NC | C25H29I3N2O13
